US07671058B2
Preparation of 5-chloro-2-(2-methoxyethoxymethoxy)benzoic acid
Sodium hydroxide (7.20 g, 180 mmol) was added to a solution of 5-chlorosalicylic acid (10.36 g, 60 mmol) in tetrahydrofuran (60 ml). (2-Methoxyethoxy)methyl chloride (15.1 ml, 132 mmol) was added to the mixture, and the mixture was stirred for 18 hours. 2N Aqueous sodium hydroxide (80 ml) was added to the reaction mixture, and the mixture was refluxed for 2 hours. The water layer was adjusted to pH=3 by addition of 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane ethyl acetate=1:1) to give the title compound (12.8 g, 82%) as a colorless liquid.

reactant | Sodium hydroxide | 180 mmol, 7.20 g | [OH-].[Na+]
reactant | 5-chlorosalicylic acid | 60 mmol, 10.36 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | (2-Methoxyethoxy)methyl chloride | 132 mmol, 15.1 ml | COCCOCCl | C4H9ClO2
reactant | sodium hydroxide | 2N, 80 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-chloro-2-(2-methoxyethoxymethoxy)benzoic acid | 12.8 g, 82% | ClC=1C=CC(=C(C(=O)O)C1)OCOCCOC | C11H13ClO5
